US04783458
Piperidine hydrochloride (8.9 g, 0.073 mol), 7-tert-butyl-1,2,3,4-tetrahydronaphthalene-1-one (7.0 g, 0.035 mol) and paraformaldehyde (2.2 g, 0.073 mol) were refluxed together in ethanol (150 ml) along with concentrated hydrochloric acid (1 ml) as a catalyst for 16 hours. The reaction mixture was concentrated under reduced pressure and the residue dissolved in water then extracted with diethyl ether. The resulting aqueous solution was neutralized with sodium bicarbonate and extracted with diethyl ether (2×200 ml), dried over magnesium sulphate and concentrated under reduced pressure to give 7-tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one (4.5 g, 43% yield) as a buff coloured solid melting at 62°-3°. Compound number 4 in Table I.

reactant | Piperidine hydrochloride | 0.073 mol, 8.9 g | Cl.N1CCCCC1
reactant | 7-tert-butyl-1,2,3,4-tetrahydronaphthalene-1-one | 0.035 mol, 7.0 g | C(C)(C)(C)C1=CC=C2CCCC(C2=C1)=O | C14H18O
reactant | paraformaldehyde | 0.073 mol, 2.2 g | C=O | CH2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 1 ml | Cl | ClH
product | 7-tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one | 4.5 g, 43% yield | C(C)(C)(C)C1=CC=C2CCC(C(C2=C1)=O)CN1CCCCC1 | C20H29NO
